US05905088
(a) Preparation of methyl 5-bromoacetyl-3-thiophenecarboxylate
A solution of bromoacetyl bromide (13.52 g, 0.067 mol) in 20 ml of CH2Cl2 was added dropwise to a solution of aluminum chloride (13.4 g, 0.105 mol) in 50 ml of CH2Cl2 at 0° C. The mixture was stirred for 1 h at 0° C., and then a solution of methyl 3-thiophenecarboxylate (9.49 g, 0.067 mol) in CH2Cl2 (50 ml) was added dropwise. The stirring was continued for 12 h and then the mixture was poured over water and ice and extracted with CH2Cl2. The organic phase was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum.

reactant | bromoacetyl bromide | 0.067 mol, 13.52 g | BrCC(=O)Br | C2H2Br2O
reactant | aluminum chloride | 0.105 mol, 13.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl 3-thiophenecarboxylate | 0.067 mol, 9.49 g | S1C=C(C=C1)C(=O)OC | C6H6O2S
reactant | water | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 5-bromoacetyl-3-thiophenecarboxylate | BrCC(=O)C1=CC(=CS1)C(=O)OC | C8H7BrO3S
